US04070467
(±)-trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine-3-hexanol
1.5 grams (0.036 moles) of (±)-trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine-3-hexanoic acid ethyl ester dissolved in 25 ml of dry ether was added dropwise to a stirred suspension of 380 mg (0.010 moles) of lithium aluminum hydride in 50 ml of ether under a nitrogen atmosphere. The resulting mixture was then heated for 1 hour at reflux, cooled, and decomposed with 1N sodium hydroxide solution. The ether solution was decanted from the inorganic salts, dried over anhydrous potassium carbonate, and evaporated. The solid residue thus obtained was recrystallized from benzene-hexane to give the title compound as colorless plates, m.p. 101°-102.5° C.

reactant | (±)-trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine-3-hexanoic acid ethyl ester | 0.036 moles, 1.5 grams | C(C)OC(CCCCCC1CCC2C(/C=C/C=3C=4N2C2=C(C4CCC3)C=NC=C2)C1)=O | C27H34N2O2
reactant | lithium aluminum hydride | 0.010 moles, 380 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | (±)-trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine-3-hexanol | C1CC(CC2/C=C/C=3C=4N(C21)C2=C(C4CCC3)C=NC=C2)CCCCCCO | C25H32N2O
